* C:\Users\dhiid\Downloads\emg_hand_manipulation\EMG_Analogue_frontend.asc
* Generated by LTspice 24.1.9 for Windows.
V1 NC_01 0 PWL file=C:\Users\dhiid\Downloads\emg_hand_manipulation\channel1.pwl
R1 N001 N002 10000
X§U1 output N003 V+ V- output LT1001
V2 V+ 0 5
V3 V- 0 -5
C2 N001 output 360n
R2 N003 N001 10000
R3 output 0 1000
V4 N002 0 AC 1
C1 N003 0 360n
* .tran 70
.ac oct 10 1 1000
.lib LTC.lib
.backanno
.end
