* C:\Users\dhiid\OneDrive\Desktop\emg_hand_manipulation\EMG_schematics_spice\EMG_BANDPASS_filter_test.asc
* Generated by LTspice 24.1.9 for Windows.
X§U1 N008 N005 +3.3 -3.3 Vout LT1001
R1 N008 N007 10k
C1 N008 0 33n
V2 +3.3 0 3.3
V3 -3.3 0 -3.3
C2 Vout N007 33n
R2 N007 N006 10k
R3 N005 0 10k
R4 Vout N005 1k
R5 N006 N002 1k
X§U2 N011 N001 +3.3 -3.3 N002 OP27
R6 N002 N010 15k
C3 N010 N009 470n
C4 N011 N010 470n
R7 N011 0 15k
V1 N009 0 AC 1
R8 N002 N001 10k
R9 N001 0 18k
X§U4 Vout N003 +3.3 -3.3 N004 LT1001
R12 N004 N003 30k
R13 N003 0 1k
.ac dec 10 1 10k
.lib ADI.lib
.lib LTC.lib
.backanno
.end
