* C:\Users\dhiid\OneDrive\Desktop\emg_hand_manipulation\EMG_schematics_spice\EMG_HPF_filter_test.asc
* Generated by LTspice 24.1.9 for Windows.
V2 +3v3 0 3v3
V3 -3v3 0 3v3
X§U1 N003 N001 +3v3 -3v3 Vout1 LT1001
C2 N003 N002 9.4µ
R4 N003 0 2000
V1 N002 0 AC 1
R1 Vout1 N001 100
R2 0 N001 1k
* .tran 1
.ac dec 10 1 100k
.lib LTC.lib
.backanno
.end
